US06878728B1
A solution of Boc methylenedioxybenzenesulfonamide free phenol (0.010 g, 0.020 mmol) in 1,4-dioxane (1 mL) was combined with cesium carbonate (0.015 g, 0.047 mmol), 3-chloromethyl-5-methyl isoxazole (0.004 g, 0.028 mmol) and potassium iodide (˜1 mg, 0.006 mmol). The solution was heated to 60° C. with stirring for 16 hours, and was cooled and dried in vacuo to give a pale yellow oil. Flash column chromatography (3:7 ethyl acetate/hexane) gave Boc methylenedioxybenzenesulfonamide 3-methyl-5-methylisoxazole tethered product (0.005 g, 42%) as a colourless oil: Rf=0.25 (3:7 ethyl acetate/hexane); 1H NMR (CDCl3) 7.34 (1H, dd, J=8.4, 1.8 Hz), 7.21-7.13 (3H, m), 6.90 (3H, m), 6.11 (1H, s), 6.09 (2H, s), 5.09 (2H, s), 4.65 (1H, d, J=8.2 Hz), 3.92 (1H, br. s), 3.82-3.75 (1H, m), 3.73-3.63 (1H, m), 3.09-3.03 (2H, m), 2.98-2.80 (4H, m), 2.43 (3H, s), 1.84 (1H, septet, J=6.6 Hz), 1.36 (9H, s), 0.91 (3H, d, J=6.6 Hz), 0.88 (3H, d, J=6.6 Hz).

reactant | Boc methylenedioxybenzenesulfonamide | 0.020 mmol, 0.010 g | C(=O)(OC(C)(C)C)C1OC2=C(C=CC=C2O1)S(=O)(=O)N | C12H15NO6S
reactant | cesium carbonate | 0.047 mmol, 0.015 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-chloromethyl-5-methyl isoxazole | 0.028 mmol, 0.004 g | ClCC1=NOC(=C1)C | C5H6ClNO
reactant | potassium iodide | 0.006 mmol, ˜1 mg | [I-].[K+]
reactant | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Boc methylenedioxybenzenesulfonamide 3-methyl-5-methylisoxazole | 0.005 g, 42% | CC1=NOC(=C1)C.C1OC2=C(C=CC=C2O1)S(=O)(=O)NC(=O)OC(C)(C)C | InChI=1S/C12H15NO6S.C5H7NO/c1-12(2,3)19-11(14)13-20(15,16)9-6-4-5-8-10(9)18-7-17-8;1-4-3-5(2)7-6-4/h4-6H,7H2,1-3H3,(H,13,14);3H,1-2H3
